US08791119B2
To a solution, under argon and cooled to 10° C., of 2.52 g (6.49 mmol) of 2-tert-butyl 8-ethyl 7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate in 20 ml of dichloromethane is added dropwise 0.62 ml (7.14 mmol) of chlorosulfonyl isocyanate (CAS 1189-71-5) and the mixture is left stirring at 0° C. for 1 hour. 3.3 ml (65 mmol) of dimethylformamide are then added dropwise to the mixture, cooled to −10° C. After stirring for 5 hours at room temperature, the mixture is poured into 60 ml of aqueous 1N sodium hydroxide solution and the product is extracted with dichloromethane. The solution is dried over sodium sulfate and the solvent is evaporated off under reduced pressure, to give a yellow oil, which is chromatographed on a column of g of silica gel, eluting with a mixture of 20% ethyl acetate in cyclohexane, to give 1.24 g of 2-tert-butyl 8-ethyl 6-cyano-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate in the form of a white powder after crystallizing from diisopropyl ether, filtering off and drying.

reactant | 2-tert-butyl 8-ethyl 7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 6.49 mmol, 2.52 g | FC=1C=C(C=CC1)C=1C(=C2N(CCN(C2)C(=O)OC(C)(C)C)C1)C(=O)OCC | C21H25FN2O4
reactant | chlorosulfonyl isocyanate | 7.14 mmol, 0.62 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethylformamide | 65 mmol, 3.3 ml | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-tert-butyl 8-ethyl 6-cyano-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 1.24 g | C(#N)C1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)OCC)C2=CC(=CC=C2)F | C22H24FN3O4
